US09227978B2
4,5-Dichloro-2-nitrobenzaldehyde
A mixture of 1,2-dichloro-4-methyl-5-nitrobenzene (2 g, 9.71 mmol) and DMF-DMA (3 g, 25.2 mmol) in DMF (50 mL) was stirred at 140° C. for 14 h. The dark solution was cooled to 0° C., and then added to a solution of NaIO4 (10.8 g, 50.5 mmol) in DMF/water (1:4, 25 mL) at 0° C. After stirring at room temperature for 8 h, the mixture was filtered and the cake was rinsed with ethyl acetate. The filtrate was diluted with ethyl acetate and washed with brine. The organic layer was dried over Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography on silica gel (ethyl acetate/petroleum ether=1:20) to afford the desire product (480 mg, 23% yield, 2 steps)

reactant | 1,2-dichloro-4-methyl-5-nitrobenzene | 9.71 mmol, 2 g | ClC1=C(C=C(C(=C1)[N+](=O)[O-])C)Cl | C7H5Cl2NO2
reactant | DMF-DMA | 25.2 mmol, 3 g | CN(C)C(OC)OC | C5H13NO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF water | 25 mL | CN(C)C=O.O
product | 4,5-Dichloro-2-nitrobenzaldehyde | 23% yield | ClC1=CC(=C(C=O)C=C1Cl)[N+](=O)[O-] | C7H3Cl2NO3
